US07238808B2
3-(2-Methyl-pyridin-3-ylethynyl)-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (355 mg, 1.0 mmol) and 3-bromo-2-methyl-pyridine [CAS 38749-79-0; commercially available] (252 mg, 1.3 mmol) according to general procedure II. Obtained as a light brown solid (270 mg, 60%). MS (ISP) 447.0 [(M+H)+]; mp 198° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 355 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 3-bromo-2-methyl-pyridine | BrC=1C(=NC=CC1)C | C6H6BrN
product | 3-(2-Methyl-pyridin-3-ylethynyl)-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | CC1=NC=CC=C1C#CC=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C22H12F6N4
